US03931181
A suspension of 11.3 g. of N-{2-amino-5-[4-(1-hydroxy-1-methyl-ethyl)-3,5-dimethoxy-benzyl]-4-pyrimidinyl}-acetamide in 40 ml. of 10% methanolic potassium hydroxide was boiled at reflux for 1 hour and then cooled to about 10°C. The crystals were removed by filtration with suction and washed with a small amount of methanol. After crystallization from methanol, there was obtained 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-α,α-dimethyl-benzyl alcohol having a m.p. of 248°-250°C.

reactant | N-{2-amino-5-[4-(1-hydroxy-1-methyl-ethyl)-3,5-dimethoxy-benzyl]-4-pyrimidinyl}-acetamide | NC1=NC=C(C(=N1)NC(C)=O)CC1=CC(=C(C(=C1)OC)C(C)(C)O)OC | C18H24N4O4
reactant | potassium hydroxide | [OH-].[K+]
product | 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-α,α-dimethyl-benzyl alcohol | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(C)(C)O)C(=C1)OC)OC | C16H22N4O3
